US04168379
2-Methyl-4,5-di-(methoxymethyl)-6-benzyl-pyridin-3-ol
A mixture of 19.4 g (0.1 mole) of 2-methylsulfonyl-1,4-dimethoxy-but-2-ene and 34.6 g (0.2 mole) of 2-benzyl-4-methyloxazole is heated for 10 hours at 190° C. After it has cooled, unconverted oxazole and sulfone are distilled off in a high vacuum. The residue is chromatographed over silica gel (using ethyl acetate and methanol). 5.5 g of 2-methyl-4,5-di-(methoxymethyl)-6-benzyl-pyridin-3-ol, identified by the NMR spectrum, are obtained.

reactant | 2-methylsulfonyl-1,4-dimethoxy-but-2-ene | 0.1 mole, 19.4 g | CS(=O)(=O)C(COC)=CCOC | C7H14O4S
reactant | 2-benzyl-4-methyloxazole | 0.2 mole, 34.6 g | C(C1=CC=CC=C1)C=1OC=C(N1)C | C11H11NO
product | 2-Methyl-4,5-di-(methoxymethyl)-6-benzyl-pyridin-3-ol | CC1=NC(=C(C(=C1O)COC)COC)CC1=CC=CC=C1 | C17H21NO3
